US07767691B2
1-Azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol
A solution of ethyl 1-azabicyclo[2.2.1]heptane-4-carboxylate (4 g, 23 mmol) in THF (60 mL) was added dropwise to a solution of phenyllithium (1.5 M in 70% cyclohexane/30% diethyl ether, 63.1 mL, 94.6 mmol) pre-cooled to −30° C. under Ar. The reaction was warmed to RT and stirred for 16 h. The reaction was treated with water and extracted with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. Trituration (diethyl ether) afforded the title compound (3.595 g, 54%). EI-MS m/z 280 (MH)+ Rt (1.56 min).

reactant | ethyl 1-azabicyclo[2.2.1]heptane-4-carboxylate | 23 mmol, 4 g | N12CCC(CC1)(C2)C(=O)OCC | C9H15NO2
reactant | phenyllithium | 94.6 mmol, 1.5 M, 63.1 mL | C1(=CC=CC=C1)[Li]
reactant | water | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-Azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 3.595 g, 54% | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
